US07420000B2
2-((Diethoxvphosphoryl)methylamino)-2-(furan-2-yl)acetic acid
Diethyl aminomethylphosphonate, prepared according to literature (Davidsen, S. K.; Philips, G. W.; Martin, S. F. Organic Synthesis CV 8, 451.) (50 mg, 0.3 mmol), 2-furan boronic acid (67 mg, 0.6 mmol), glyoxylic acid monohydrate (28 mg, 0.3 mmol) was put into a 10ml round bottom flask, dissolved with 5 ml of acetonitrile. The mixture was stirred at room temperature for one day. Solvent was then removed and product was isolated by flash column chromatography using NH4OH 5%, MeOH 20%, ethyl acetate 55%, dichloromethane 20% afforded 60 mg clear oil (67% yield). 1H NMR (360 MHz, CDCl3) δ 1.23-1.33(td, J=7.3, 1.7 Hz, 6H), 2.86-2.98(d, J=13.3 Hz, 2H), 4.02-4.14(m, 4H), 4.49(s, 1H), 6.26-6.31(dd, J=3.2, 1.8 Hz, 1H), 6.31-6.36(d, J=3.2 Hz, 1H), 7.33-7.38(bs, 1H); 13C NMR (126 MHz, CDCl3) δ 16.30(d, J=6 Hz), 41.51(d, J=156.5 Hz), 60.81(d, J=14.7 Hz), 62.40(t, J=6.8 Hz), 108.97, 110.27, 142.41, 151.19, 173.29.

reactant | Diethyl aminomethylphosphonate | NCP(OCC)(OCC)=O | C5H14NO3P
reactant | 2-furan boronic acid | 0.6 mmol, 67 mg | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | glyoxylic acid monohydrate | 0.3 mmol, 28 mg | O.C(C=O)(=O)O
reactant | NH4OH | [NH4+].[OH-]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | MeOH | CO | CH4O
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-((Diethoxvphosphoryl)methylamino)-2-(furan-2-yl)acetic acid | 60 mg, 67% yield | C(C)OP(=O)(OCC)CNC(C(=O)O)C=1OC=CC1 | C11H18NO6P
